US08802673B2
To a stirred solution of 1-(4-bromo-2-fluorophenyl)-2-chloroethanone (5.57 g) in ethanol (100 ml) at 5° C. was added portionwise over 5 min NaBH4 (838 mg). The reaction mixture was then stirred at room temperature for 1 hour to afford a light yellow solution. TLC analysis showed the reaction was complete. Sodium methoxide (2.06 ml, 30% solution in methanol) was then added and the reaction mixture was stirred at room temperature overnight. TLC analysis showed the reaction was complete. The reaction mixture was then poured into water and extracted twice with EtOAc. The combined organic layers were washed with saturated brine, then dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel; gradient: 5% to 40% EtOAc in heptane) to afford (RS)-2-(4-bromo-2-fluorophenyl)oxirane (1.35 g, 28%) as a light yellow oil which was used in the next step without further purification. MS (EI): 218 ([{81Br}M]+, 216 ([{79Br}M]+).

reactant | 1-(4-bromo-2-fluorophenyl)-2-chloroethanone | 5.57 g | BrC1=CC(=C(C=C1)C(CCl)=O)F | C8H5BrClFO
reactant | NaBH4 | 838 mg | [BH4-].[Na+]
reactant | Sodium methoxide | 2.06 ml | C[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (RS)-2-(4-bromo-2-fluorophenyl)oxirane | 1.35 g, 28% | BrC1=CC(=C(C=C1)C1OC1)F | C8H6BrFO
